US06635753B1
The Stavudine-DMA solvate (15.2 g, 0.0488 mole) was combined with water (2.74 g) and acetone (220 mL) and heated to 500° C. when only a few grains of solid remained. The hot solution was filtered to remove the remaining solid, the filtrate was distilled until about 55 mL of acetone remained. The solution was allowed to cool on its own and at about 35-40° C. it was seeded with pure Stavudine. After 70 minutes of cooling on its own it was placed on an ice-water bath for one hour. The mixture was filtered, washed with acetone (2×11 mL) and air dried to give 8.32 g (0.0371 mole, 76.0%) of pure white Stavudine. The HPLC results are given in Table 2.

reactant | Stavudine DMA | 0.0488 mole, 15.2 g | CC1=CN(C(=O)NC1=O)[C@H]2C=C[C@H](O2)CO.CC(=O)N(C)C
reactant | water | 2.74 g | O | H2O
solvent | acetone | 220 mL | CC(=O)C | C3H6O
product | Stavudine | 0.0371 mole, 8.32 g, 76.0% | CC1=CN(C(=O)NC1=O)[C@H]2C=C[C@H](O2)CO | C10H12N2O4
